Truncated Datasets/Truncated Pathways Dataset (first 1000 rows).csv
original_reactions,updated_reaction,mechanistic_class,mechanistic_label,data_source
Cl[c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[cH:7][n:8]1.[CH3:9][O:10][C:11](=[O:12])[C@@H:13]1[CH2:14][NH:15][CH2:16][C@H:17]1[c:18]1[cH:19][cH:20][c:21]([F:22])[cH:23][c:24]1[F:25]>>[c:1]1([N:15]2[CH2:14][C@@H:13]([C:11]([O:10][CH3:9])=[O:12])[C@H:17]([c:18]3[cH:19][cH:20][c:21]([F:22])[cH:23][c:24]3[F:25])[CH2:16]2)[cH:2][cH:3][c:4]([C:5]#[N:6])[cH:7][n:8]1,[CH3:9][O:10][C:11](=[O:12])[C@@H:13]1[CH2:14][NH:15][CH2:16][C@H:17]1[c:18]1[cH:19][cH:20][c:21]([F:22])[cH:23][c:24]1[F:25].[Cl:101][c:1]1[cH:2][cH:3][c:4]([C:5]#[N:6])[cH:7][n:8]1>>[c:1]1([N:15]2[CH2:14][C@@H:13]([C:11]([O:10][CH3:9])=[O:12])[C@H:17]([c:18]3[cH:19][cH:20][c:21]([F:22])[cH:23][c:24]3[F:25])[CH2:16]2)[cH:2][cH:3][c:4]([C:5]#[N:6])[cH:7][n:8]1,SNAr(para),"[(15, 1), ([1, 8], [8, 7]), ([7, 4], [4, 5]), ([5, 6], 6), (6, [6, 5]), ([5, 4], [4, 7]), ([7, 8], [8, 1]), ([1, 101], 101)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)[O:1][CH2:2][c:3]1[c:4](-[c:5]2[cH:6][n:7]([CH3:8])[c:9](=[O:10])[c:11]([NH:12][c:13]3[cH:14][cH:15][c:16]([N:17]4[CH2:18][CH2:19][N:20]([CH:21]5[CH2:22][O:23][CH2:24]5)[CH2:25][C@@H:26]4[CH3:27])[cH:28][n:29]3)[cH:30]2)[cH:31][c:32]([F:33])[cH:34][c:35]1-[n:36]1[n:37][cH:38][c:39]2[c:40]([s:41][c:42]3[c:43]2[CH2:44][CH2:45][CH2:46][CH2:47]3)[c:48]1=[O:49]>>[OH:1][CH2:2][c:3]1[c:4](-[c:5]2[cH:6][n:7]([CH3:8])[c:9](=[O:10])[c:11]([NH:12][c:13]3[cH:14][cH:15][c:16]([N:17]4[CH2:18][CH2:19][N:20]([CH:21]5[CH2:22][O:23][CH2:24]5)[CH2:25][C@@H:26]4[CH3:27])[cH:28][n:29]3)[cH:30]2)[cH:31][c:32]([F:33])[cH:34][c:35]1-[n:36]1[n:37][cH:38][c:39]2[c:40]([s:41][c:42]3[c:43]2[CH2:44][CH2:45][CH2:46][CH2:47]3)[c:48]1=[O:49],C[C:101](=[O:201])[O:1][CH2:2][c:3]1[c:4](-[c:5]2[cH:6][n:7]([CH3:8])[c:9](=[O:10])[c:11]([NH:12][c:13]3[cH:14][cH:15][c:16]([N:17]4[CH2:18][CH2:19][N:20]([CH:21]5[CH2:22][O:23][CH2:24]5)[CH2:25][C@@H:26]4[CH3:27])[cH:28][n:29]3)[cH:30]2)[cH:31][c:32]([F:33])[cH:34][c:35]1-[n:36]1[n:37][cH:38][c:39]2[c:40]([s:41][c:42]3[c:43]2[CH2:44][CH2:45][CH2:46][CH2:47]3)[c:48]1=[O:49].[OH-:301].[OH-:302]>>[OH:1][CH2:2][c:3]1[c:4](-[c:5]2[cH:6][n:7]([CH3:8])[c:9](=[O:10])[c:11]([NH:12][c:13]3[cH:14][cH:15][c:16]([N:17]4[CH2:18][CH2:19][N:20]([CH:21]5[CH2:22][O:23][CH2:24]5)[CH2:25][C@@H:26]4[CH3:27])[cH:28][n:29]3)[cH:30]2)[cH:31][c:32]([F:33])[cH:34][c:35]1-[n:36]1[n:37][cH:38][c:39]2[c:40]([s:41][c:42]3[c:43]2[CH2:44][CH2:45][CH2:46][CH2:47]3)[c:48]1=[O:49],base_cat_ester_hydrolysis,"[(301, 101), ([101, 201], 201), (201, [201, 101]), ([101, 1], 1), (302, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
CC(=O)[O:1][CH2:2][c:3]1[n:4][c:5]([CH3:6])[cH:7][c:8](-[c:9]2[cH:10][c:11]3[n:12]([CH:13]4[CH2:14][CH2:15]4)[cH:16][c:17]([C:18]([O:19][CH2:20][CH3:21])=[O:22])[c:23](=[O:24])[c:25]3[cH:26][c:27]2[F:28])[cH:29]1>>[OH:1][CH2:2][c:3]1[n:4][c:5]([CH3:6])[cH:7][c:8](-[c:9]2[cH:10][c:11]3[n:12]([CH:13]4[CH2:14][CH2:15]4)[cH:16][c:17]([C:18]([O:19][CH2:20][CH3:21])=[O:22])[c:23](=[O:24])[c:25]3[cH:26][c:27]2[F:28])[cH:29]1,C[C:101](=[O:201])[O:1][CH2:2][c:3]1[n:4][c:5]([CH3:6])[cH:7][c:8](-[c:9]2[cH:10][c:11]3[n:12]([CH:13]4[CH2:14][CH2:15]4)[cH:16][c:17]([C:18]([O:19][CH2:20][CH3:21])=[O:22])[c:23](=[O:24])[c:25]3[cH:26][c:27]2[F:28])[cH:29]1.[OH-:301].[OH-:302]>>[OH:1][CH2:2][c:3]1[n:4][c:5]([CH3:6])[cH:7][c:8](-[c:9]2[cH:10][c:11]3[n:12]([CH:13]4[CH2:14][CH2:15]4)[cH:16][c:17]([C:18]([O:19][CH2:20][CH3:21])=[O:22])[c:23](=[O:24])[c:25]3[cH:26][c:27]2[F:28])[cH:29]1,base_cat_ester_hydrolysis,"[(301, 101), ([101, 201], 201), (201, [201, 101]), ([101, 1], 1), (302, 301.1), ([301.1, 301], 301)]",https://figshare.com/articles/dataset/Chemical_reactions_from_US_patents_1976-Sep2016_/5104873
